US04252963
When the reaction is carried out as described in Example 4, but instead of 4-aminophenylthiourea an equimolar amount of 5-amino-1-naphthylthiourea is used, 2,6-diaminonaphtho[1,2-d]thiazole is obtained in an equally good yield and quality.

reactant | 4-aminophenylthiourea | NC1=CC=C(C=C1)NC(=S)N | C7H9N3S
reactant | 5-amino-1-naphthylthiourea | NC1=C2C=CC=C(C2=CC=C1)NC(=S)N | C11H11N3S
product | 2,6-diaminonaphtho[1,2-d]thiazole | NC=1SC2=C(N1)C1=CC=CC(=C1C=C2)N | C11H9N3S
